US07417060B2
To a solution of tert-butyl [2-[4-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)phenyl]ethyl][(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]carbamate (1.32 g) in methanol (15 ml) was added potassium carbonate (455 mg) at room temperature and the mixture was stirred at room temperature for 15 hours. The mixture was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and washed with water, brine and aqueous hydrochloric acid solution (0.1N). The organic layer was dried over sodium sulfate and evaporated under reduced pressure to give methyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-3-hydroxy-4-biphenylcarboxylate (1.11 g).

reactant | tert-butyl [2-[4-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)phenyl]ethyl][(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]carbamate | 1.32 g | CC1(OC(C2=C(O1)C=C(C=C2)C2=CC=C(C=C2)CCN(C(OC(C)(C)C)=O)C[C@H](OC2OCCCC2)C2=CC=CC=C2)=O)C | C36H43NO7
reactant | potassium carbonate | 455 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | methyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-3-hydroxy-4-biphenylcarboxylate | 1.11 g | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)O)C[C@H](OC1OCCCC1)C1=CC=CC=C1 | C34H41NO7
